US05393761
6-Chloro-3-(4-fluorophenyl)-1H-indazole 25a.
To solution of 5-chloro-2-(4-fluorobenzoyl)aniline (5 g) in 6M aqueous HCl (25 ml) was added a solution of NaNO2 (2.5 g) in water (5 ml) at 0°-5° C. under stirring during 15 min. After stirring for further 0.5 h at 0° C. a solution of SnCl2 (20 g) in conc. aqueous HCl (25 ml) was added. The reaction mixture was allowed to heat to room temperature and after 0.5 h the precipitate was filtered off and suspended in 2 N aqueous NaOH. The suspension was filtered and dichloromethane was added to the precipitate. The thus obtained solution was washed with brine and dried (MgSO4). Evaporation of the solvents afforded the title compound (2.5 g) as an oil which was used without further purification. In a corresponding manner the following indazole derivative was prepared: 3-(4-Fluorophenyl)-5-trifluoromethyl-1H-indazole 25b, (oil)

reactant | 5-chloro-2-(4-fluorobenzoyl)aniline | 5 g | ClC=1C=CC(=C(N)C1)C(C1=CC=C(C=C1)F)=O | C13H9ClFNO
reactant | NaNO2 | 2.5 g | N(=O)[O-].[Na+]
reactant | SnCl2 | 20 g | Cl[Sn]Cl
solvent | HCl | 6M, 25 ml | Cl | ClH
solvent | water | 5 ml | O | H2O
solvent | HCl | 25 ml | Cl | ClH
product | 6-Chloro-3-(4-fluorophenyl)-1H-indazole | 2.5 g | ClC1=CC=C2C(=NNC2=C1)C1=CC=C(C=C1)F | C13H8ClFN2
